US04871751
Added to 700 ml of toluene were 73.1 g (0.30 mole) of N-(2-chlorophenyl)-1-phenylpropaneimine, 34.8 g (0.20 mole) of ethyl phenylpropiolate and 40.0 g (0.30 mole) of aluminum chloride. The reaction mixture was then heated with stirring as 60° C. for 3 days. After cooling, the reaction mixture was poured into 1000 ml of 2N sulfuric acid, followed by extraction with chloroform. After washing the organic layer with water, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by chromatography on a silica gel column (eluent: ethyl acetate). The crystals obtained were then recrystallized from a 1:2 mixed solvent of chloroform and hexane to give 17.0 g of 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone. 1/5HCl having a melting point of 229°-231° C.

reactant | N-(2-chlorophenyl)-1-phenylpropaneimine | 0.30 mole, 73.1 g | ClC1=C(C=CC=C1)N=C(CC)C1=CC=CC=C1 | C15H14ClN
reactant | ethyl phenylpropiolate | 0.20 mole, 34.8 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | aluminum chloride | 0.30 mole, 40.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 2N, 1000 ml | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 17.0 g | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C24H18ClNO
